US09108966B2
To a mixture of (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-(1,2,4-thiadiazol-5-yl)piperidine-1-carboxylate (1.17 g, 2.0 mmol) in dry DMF (30 mL) at rt was added LiOH.H2O (640 mg, 16.0 mmol), followed by addition of 2-mercaptoacetic acid (920 mg, 10.0 mmol). The mixture was stirred at 30° C. for 24 hrs., then the mixture was diluted with EtOAc (200 mL), washed with water (4×), dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (3:1 petroleum ether/EtOAc) to give (2S,5R)-tert-butyl 5-(benzyloxyamino)-2-(1,2,4-thiadiazol-5-yl)piperidine-1-carboxylate (560 mg, 75%) as an oil. ESI-MS (EI+, m/z): 413 [M+Na]+.

reactant | (2S,5R)-tert-butyl 5-(N-(benzyloxy)-2-nitrophenylsulfonamido)-2-(1,2,4-thiadiazol-5-yl)piperidine-1-carboxylate | 2.0 mmol, 1.17 g | C(C1=CC=CC=C1)ON(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C1=NC=NS1 | C25H29N5O7S2
reactant | LiOH.H2O | 16.0 mmol, 640 mg | O[Li].O
reactant | 2-mercaptoacetic acid | 10.0 mmol, 920 mg | SCC(=O)O | C2H4O2S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (2S,5R)-tert-butyl 5-(benzyloxyamino)-2-(1,2,4-thiadiazol-5-yl)piperidine-1-carboxylate | 560 mg, 75% | C(C1=CC=CC=C1)ON[C@@H]1CC[C@H](N(C1)C(=O)OC(C)(C)C)C1=NC=NS1 | C19H26N4O3S
